US08067445B2
Step 2: {2′-[((1S,2R)-2-Hydroxy-1-methyl-2-phenyl-ethylamino)-methyl]-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl}-acetic acid
{2′-[((1S,2R)-2-Hydroxy-1-methyl-2-phenyl-ethylamino)-methyl]-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl}-acetic acid methyl ester (0.021 g, 0.04 mmol) in MeOH (0.33 mL) and THF (0.4 mL) was treated with 1N aqueous NaOH (0.1 mL) and stirred at room temperature for 4 hours. Analytical LCMS showed that some starting material was still present, so additional 1N aqueous NaOH (0.05 mL) was added, and the reaction was stirred at room temperature overnight. Analytical LCMS showed that starting material still remained, so additional 1N aqueous NaOH (0.1 mL) was added, and the reaction was stirred for 4 hours. After work-up with CH2Cl2 and 1N aqueous HCl, the combined organic layers were dried over MgSO4, filtered, and concentrated to give the title compound.

reactant | {2′-[((1S,2R)-2-Hydroxy-1-methyl-2-phenyl-ethylamino)-methyl]-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl}-acetic acid methyl ester | 0.04 mmol, 0.021 g | COC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C(F)(F)F)CN[C@H]([C@@H](C1=CC=CC=C1)O)C)=O | C27H28F3NO4
reactant | NaOH | 1N, 0.1 mL | [OH-].[Na+]
reactant | NaOH | 1N, 0.05 mL | [OH-].[Na+]
reactant | NaOH | 1N, 0.1 mL | [OH-].[Na+]
solvent | MeOH | 0.33 mL | CO | CH4O
solvent | THF | 0.4 mL | C1CCOC1 | C4H8O
product | {2′-[((1S,2R)-2-Hydroxy-1-methyl-2-phenyl-ethylamino)-methyl]-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl}-acetic acid | O[C@@H]([C@H](C)NCC1=C(C=CC(=C1)C(F)(F)F)C1=CC(=CC=C1OC)CC(=O)O)C1=CC=CC=C1 | C26H26F3NO4
